US04604388
6-Hydroxy-5-quinolinecarboxylic acid methyl ester
6-Hydroxy-5-quinolinecarboxylic acid [as reported by Da Re, P. et al. in Ann. Chem. (Rome) 1970, 60(3), 215-24 (C. A. 73, 25338m)] is reacted with methanolic boron trifluoride solution for several hours. The resulting mixture is added to an aqueous solution of sodium bicarbonate to give finally a basic solution. The solution is extracted with chloroform. The chloroformm extract is dried over anhydrous sodium sulfate and concentrated and the residue is crystallized from a suitable solvent.

reactant | 6-Hydroxy-5-quinolinecarboxylic acid | OC1=C(C=2C=CC=NC2C=C1)C(=O)O | C10H7NO3
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-Hydroxy-5-quinolinecarboxylic acid methyl ester | COC(=O)C=1C=2C=CC=NC2C=CC1O | C11H9NO3
